US07902367B2
Methyl 3-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]piperidin-1-yl]benzoate
N-(Piperidin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide (172 mg, 0.492 mmol), 3-(methoxycarbonyl)phenylboric acid (177 mg, 0.984 mmol) and molecular sieves 4 Å (400 mg) were suspended in dichloromethane (10 mL). To this suspension, copper (II) acetate (188 mg, 0.984 mmol) and triethylamine (0.344 mL, 2.46 mmol) were added and the mixture was stirred at room temperature for 8 hours. Subsequently, the reaction mixture was filtered through Celite, followed by addition of a saturated aqueous sodium bicarbonate solution. The mixture was then extracted with ethyl acetate and the extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the residue by silica gel column chromatography (hexane:ethyl acetate=20:1->2:1) gave 88.2 mg (37%) of the desired compound as a colorless powder.

reactant | N-(Piperidin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide | 0.492 mmol, 172 mg | N1CC(CCC1)CNC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C17H20ClN3OS
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.984 mmol, 177 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
reactant | triethylamine | 2.46 mmol, 0.344 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 0.984 mmol, 188 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl 3-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]piperidin-1-yl]benzoate | 88.2 mg, 37% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NCC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C25H26ClN3O3S
